US05679696
A stirred solution of 2-methoxyphenyl benzoate (10 g) in dichloromethane (100 mL) from 0°-5° C. is treated dropwise with chlorosulfonic acid (2.9 mL) and the solution is then stirred for 3 hours from 0°-5° C. The precipitate which forms is filtered off, washed with cold dichloromethane, and dried in vacuo, to give 3-benzoyloxy-4-methoxybenzenesulfonic acid (11.45 g), in the form of a white solid, m.p. 139°-140° C.

reactant | 2-methoxyphenyl benzoate | 10 g | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)OC | C14H12O3
reactant | chlorosulfonic acid | 2.9 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-benzoyloxy-4-methoxybenzenesulfonic acid | 11.45 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1OC)S(=O)(=O)O | C14H12O6S
